US06703391B2
A solution of 5,6-quinolinediamine (12.5 g, 0.065 mol) and sulfuric acid (8 mL) in methanol (250 mL) was treated with platinum oxide (1 g) in a Parr apparatus under hydrogen for 16 hours. An additional 1 g portion of platinum oxide was added and hydrogenation continued for 44 hours additional. Standard work-up gave the 5,6-diaminotetrahydroquinoline.

reactant | 5,6-quinolinediamine | 0.065 mol, 12.5 g | N1=CC=CC2=C(C(=CC=C12)N)N | C9H9N3
reactant | sulfuric acid | 8 mL | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 250 mL | CO | CH4O
catalyst | platinum oxide | 1 g | [Pt]=O
product | 5,6-diaminotetrahydroquinoline | NC1=C2CCCNC2=CC=C1N | C9H13N3
